US04994460
(1S,4S)-N-benzyl-2,5-diazabicyclo[2.2.1]heptane dihydrobromide. A mixture of (1S,4S)-2-(4-toluenesulfonyl)-5-phenylmethyl-2,5-diazabicyclo[2.2.1]heptane (54.0 g, 0.16 mole) in AcOH (830 mL) containing HBr (30% wt.) was heated at 70° C. for 1% h. The reaction mixture was allowed to cool and concentrated under reduced pressure to a final volume of ca. 300 mL. The precipitate that formed was filtered and washed with acetone to give (1S,4S)-N-benzyl-2,5-diazabicyclo[2.2.1]heptane (50.30 g, 91.3%, m.p. 272°-275° C.).

reactant | (1S,4S)-N-benzyl-2,5-diazabicyclo[2.2.1]heptane dihydrobromide | Br.Br.C(C1=CC=CC=C1)N1[C@@H]2CN[C@H](C1)C2
reactant | (1S,4S)-2-(4-toluenesulfonyl)-5-phenylmethyl-2,5-diazabicyclo[2.2.1]heptane | 0.16 mole, 54.0 g | C1(=CC=C(C=C1)S(=O)(=O)N1[C@@H]2CN([C@H](C1)C2)CC2=CC=CC=C2)C | C19H22N2O2S
reactant | HBr | Br | BrH
solvent | AcOH | 830 mL | CC(=O)O | C2H4O2
product | (1S,4S)-N-benzyl-2,5-diazabicyclo[2.2.1]heptane | 50.30 g, 91.3% | C(C1=CC=CC=C1)N1[C@@H]2CN[C@H](C1)C2 | C12H16N2
